US05807806
To acetone in a volume of 40 ml, was dissolved 1-methyl-5-hydroxy-4-(2-chloro-4-methanesulfonyl- 3-dimethoxymethylbenzoyl)pyrazole in an amount of 1.8 g (4.7 mmol), and hydrochloric acid in an amount of 2 ml was then added to the resulting solution. The mixture was stirred for 1 hour under heating reflux, and the solvent therein was removed by distillation. Crystals precipitated was washed with ether to obtain 1-methyl-5-hydroxy-4-(2-chloro-4-methanesulfonyl-3-formylbenzoyl)pyrazole in an amount of 1.5 g. The melting point of this compound is in a range of from 140° to 142° C.

reactant | acetone | CC(=O)C | C3H6O
reactant | 1-methyl-5-hydroxy-4-(2-chloro-4-methanesulfonyl- 3-dimethoxymethylbenzoyl)pyrazole | CN1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C(OC)OC)Cl)=O | C15H17ClN2O6S
solvent | hydrochloric acid | Cl | ClH
product | 1-methyl-5-hydroxy-4-(2-chloro-4-methanesulfonyl-3-formylbenzoyl)pyrazole | CN1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C=O)Cl)=O | C13H11ClN2O5S
